US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)ethanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)ethane sulfonamide (200 mg, 0.291 mmol) was hydrolyzed by lithium hydroxide (36 mg, 0.87 mmol) in THF/Methanol/Water (10/3/2 ml) to give 25 mg (16.5% yield) after purification by flash chromatography. 1H NMR (DMSO-d6, 300 MHz): δ 11.9 (s, 1H), 9.02 (s, 1H), 8.45 (s, 1H), 7.79 (s, 1H), 7.54-7.49 (m, 3H), 7.19-7.0 (m, 4H), 5.33 (s, 2H), 3.86 (s, 3H), 3.06-3.04 (m, 2H0, 2.17-2.13 (d, 6H), 1.27-1.23 (t, 3H). MS: m/z=534.8 (M+1), HPLC: 90.27% (Method-B).

reactant | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)ethane sulfonamide | 0.291 mmol, 200 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)CC)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C35H34FN5O5S2
reactant | lithium hydroxide | 0.87 mmol, 36 mg | [OH-].[Li+]
solvent | THF Methanol Water | 2 ml | C1CCOC1.CO.O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)ethanesulfonamide | 16.5% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)CC)OC)C)C=CC1 | C28H28FN5O3S
